US07056923B2
Alternatively, N-benzyloxycarbonyl-L-glutamic acid y-t-butyl ester (34 g, 100 mmol) and EDCI (22 g, 110 mmol), HOBT (15 g, 110 mmol) were combined in 800 mL CH2Cl2 with triethylamine (24 mL, 172 mmol). The resulting reaction mixture was stirred at ambient temperature for 20 minutes, then 1-ethoxycarbonylpiperazine (18 g, 120 mmol) was added. The resulting mixture was stirred at ambient temperature for 15 hours. The reaction mixture was then washed with water, 2N NaHSO4, and brine, then concentrated in vacuo to afford an oil, which was purified by flash column chromatography on silica gel (acetate/hexane=1/1) to afford 4-ethoxycarbonyl-1-(1-(benzyloxycarbonyl)amino-3-(1,1-dimethylethoxycarbonyl)propyl)carbonylpiperazine (40 g). 4-ethoxycarbonyl-1-(1-(benzyloxycarbonyl)amino-3-(1,1-dimethylethoxycarbonyl)propyl)carbonylpiperazine (40 g) was dissolved in 200 mL of MeOH, 2 g Pd/C(10%) was added and hydrogenated at 50 psi for 1 hour. Regular work up afforded 4-ethoxycarbonyl-1-(1-amino-3-(1,1-dimethylethoxycarbonyl)propyl)carbonylpiperazine (25 g).

reactant | 4-ethoxycarbonyl-1-(1-(benzyloxycarbonyl)amino-3-(1,1-dimethylethoxycarbonyl)propyl)carbonylpiperazine | 40 g | C(C)OC(=O)N1CCN(CC1)C(=O)C(CCC(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1 | C24H35N3O7
solvent | MeOH | 200 mL | CO | CH4O
catalyst | Pd/C | 2 g | [Pd] | Pd
product | 4-ethoxycarbonyl-1-(1-amino-3-(1,1-dimethylethoxycarbonyl)propyl)carbonylpiperazine | 25 g | C(C)OC(=O)N1CCN(CC1)C(=O)C(CCC(=O)OC(C)(C)C)N | C16H29N3O5
